US05889050
(R,R)-N-(2-methylpropionyl)-3,3'-dithiobis (2-aminopropionic acid)
The compound was prepared by the procedure given in Example 17, starting from L-cysteine and N-isobutyryl-L-cysteine.

reactant | L-cysteine | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | N-isobutyryl-L-cysteine | C(C(C)C)(=O)N[C@@H](CS)C(=O)O | C7H13NO3S
product | (R,R)-N-(2-methylpropionyl)-3,3'-dithiobis (2-aminopropionic acid) | CC(C(=O)N[C@H](C(=O)O)CSSC[C@@H](C(=O)O)N)C | C10H18N2O5S2
